US05232948
To a solution of 160 mg (0.36 mmoles) of cis-N-methyl-N-phenethyl-2-[4-benzyloxy-3-(2-carbomethoxyvinyl)phenyl]acetamide in 10 ml of a 1:1:1 MeOH/THF/H2O mixture at 0° C. is added 76 mg (1.8 mmoles) of LiOH·H2O. The reaction mixture is allowed to come to room temperature and stirred at room temperatured for 12 hours after which time the eraction mixtured is concentrated down in vacuo, taken up in H2O washed with ether (2 times) and acidified to pH 3-4 with 1N HCl. The aqueous layer extracted with ether (2 times). The ether extracts are combined and are dried with MgSO4, filtered and concentrated down in vacuo to give cis-N-methyl-N-phenethyl-2-[4-benzyloxy-3-(2-carboxyvinyl)phenyl]acetamide. (m.p. 48°-51° C.)

reactant | cis-N-methyl-N-phenethyl-2-[4-benzyloxy-3-(2-carbomethoxyvinyl)phenyl]acetamide | 0.36 mmoles, 160 mg | CN(C(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)\C=C/C(=O)OC)=O)CCC1=CC=CC=C1 | C28H29NO4
reactant | LiOH·H2O | 1.8 mmoles, 76 mg | O[Li].O
solvent | MeOH THF H2O | 10 ml | CO.C1CCOC1.O
product | cis-N-methyl-N-phenethyl-2-[4-benzyloxy-3-(2-carboxyvinyl)phenyl]acetamide | CN(C(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)\C=C/C(=O)O)=O)CCC1=CC=CC=C1 | C27H27NO4
